US05750696
(2S)-3-phenyl-2-piperidinocarbonyloxypropionic acid benzyl ester
Active charcoal (30 mg) and trichloromethyl chloroformate (1.06 ml) were added to a solution of (2S)-2-hydroxy-3-phenylpropionic acid benzyl ester (3.0 g) in dry tetrahydrofuran (10 ml) and the mixture was stirred at room temperature overnight. A solution of piperidine (3.47 ml) and triethylamine (4.89 ml) in dichloromethane (10 ml) was added and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Ethyl acetate (50 ml) was added and the mixture was washed with 0.01N hydrochloric acid, a saturated aqueous solution of NaHCO3 and saturated brine. The organic layer was dried over MgSO4 and the solvent was distilled away under reduced pressure. The residue was purified by silica gel column chromatography (eluted with AcOEt/Hex=1/9→2/8 v/v) to give 4.71 g of the title compound as a colorless oil (see Table 9).

reactant | charcoal | 30 mg | C | CH4
reactant | trichloromethyl chloroformate | 1.06 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (2S)-2-hydroxy-3-phenylpropionic acid benzyl ester | 3.0 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)O)=O | C16H16O3
reactant | piperidine | 3.47 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 4.89 ml | C(C)N(CC)CC | C6H15N
product | (2S)-3-phenyl-2-piperidinocarbonyloxypropionic acid benzyl ester | 4.71 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)OC(=O)N1CCCCC1)=O | C22H25NO4
